US05045552
15 ml of acetic anhydride was added to 25 g of 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide to obtain a solution. This solution was stirred at 90° C. for 2 hours, followed by the addition of ethanol. The obtained mixture was distilled under a reduced pressure to obtain 4-(2-acetoxyethoxy)-2-acetoxymethyl-3-methylpyridine.

reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide | 25 g | OCCOC1=C(C(=[N+](C=C1)[O-])C)C | C9H13NO3
reactant | ethanol | C(C)O | C2H6O
product | 4-(2-acetoxyethoxy)-2-acetoxymethyl-3-methylpyridine | C(C)(=O)OCCOC1=C(C(=NC=C1)COC(C)=O)C | C13H17NO5
